US07795249B2
To a solution of 2-bromo-5-methoxybenzoic acid (21.6 mmol) in DMF (20 mL) was added N,N-carbonyldiimidazole (54.1 mmol). The reaction mixture was allowed to stir at rt for 30 min and then ammonium carbonate (97.4 mmol) was added in portions over several minutes. The reaction mixture was allowed to stir until for 5 days and then poured into water. A white precipitate formed. The mixture was extracted with EtOAc. The organic solutions were combined, washed sequentially with water, 1N HCl, sat. aq. NaHCO3 and brine, dried over Na2SO4 filtered and concentrated to give 2-bromo-5-methoxybenzamide (18.5 mmol, 85%), which was used without further purification.

reactant | 2-bromo-5-methoxybenzoic acid | 21.6 mmol | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | N,N-carbonyldiimidazole | 54.1 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium carbonate | 97.4 mmol | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-methoxybenzamide | 18.5 mmol, 85% | BrC1=C(C(=O)N)C=C(C=C1)OC | C8H8BrNO2
